US08232312B2
3,5-dichloro-N-(1H-indol-5-yl)-phenylsulphonamide
100 mg 5-aminoindole are dissolved in 10 ml of pyridine. 186 mg 3,5-dichlorophenylsulphonyl chloride are added thereto and the mixture is stirred for 4 hours at ambient temperature. The solvent is eliminated in vacuo and the residue is divided between water and ethyl acetate. The aqueous phase is extracted with ethyl acetate and the combined organic phases are washed with saturated sodium chloride solution. After drying with magnesium sulphate the solvents are eliminated in vacuo and the residue is chromatographed on silica gel (cyclohexane/ethyl acetate 10:1 to 1:5).

reactant | 5-aminoindole | 100 mg | NC=1C=C2C=CNC2=CC1 | C8H8N2
reactant | 3,5-dichlorophenylsulphonyl chloride | 186 mg | ClC=1C=C(C=C(C1)Cl)S(=O)(=O)Cl | C6H3Cl3O2S
reactant | water | O | H2O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | 3,5-dichloro-N-(1H-indol-5-yl)-phenylsulphonamide | ClC=1C=C(C=C(C1)Cl)S(=O)(=O)NC=1C=C2C=CNC2=CC1 | C14H10Cl2N2O2S
